US05128062
(1) Synthesis of (R)-trans-4-(2-n-hexyloxypropanoyloxy)cyclohexane carboxylic acid
Using trans-4-hydroxycyclohexane carboxylic acid (1.01 g, 7 mmol) and (R)-2-n-hexyloxypropanoyl chloride (1.35 g, 7 mmol), the reaction was carried out in the same manner as described in Example 4, (1), to give the title compound as a pale yellow oil; yield: 750 mg.

reactant | trans-4-hydroxycyclohexane carboxylic acid | 7 mmol, 1.01 g | O[C@@H]1CC[C@H](CC1)C(=O)O | C7H12O3
reactant | (R)-2-n-hexyloxypropanoyl chloride | 7 mmol, 1.35 g | C(CCCCC)O[C@@H](C(=O)Cl)C | C9H17ClO2
product | (R)-trans-4-(2-n-hexyloxypropanoyloxy)cyclohexane carboxylic acid | C(CCCCC)O[C@@H](C(=O)O[C@@H]1CC[C@H](CC1)C(=O)O)C | C16H28O5
